US05599814
d. Diethyl 7-bromo-4-hydroxyquinoline-2,3-dicarboxylate
To a stirred mixture of diethyl oxosuccinate sodium salt (1.31 g, 6.23 mM) in dimethylformamide (DMF, 15 mL) under a nitrogen atmosphere was added a solution of 7-bromo-2H-3,1-benzoxazine-2,4(1H)-dione (1.50 g, 6.20 mM) in DMF (15 mL). The resulting reaction mixture was heated to 130° C. over 2.5 hr and then refluxed for 5 hr. After cooling to room temperature, the reaction mixture was concentrated and the residue was chromatographed over silica gel (eluant: ethyl acetate/methylene chloride; 5/95). The fractions containing the desired material were combined and concentrated. The solid residue was recrystallized from ethanol/ether to provide (0.54 g, 24%) the title compound as a tan solid, mp 233.5°-234.5° C.; MS(CI): 368, 369 (M+H).

reactant | diethyl oxosuccinate sodium salt | 6.23 mM, 1.31 g | [Na].O=C(C(=O)OCC)CC(=O)OCC
reactant | 7-bromo-2H-3,1-benzoxazine-2,4(1H)-dione | 6.20 mM, 1.50 g | BrC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4BrNO3
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | DMF | 15 mL | CN(C=O)C | C3H7NO
product | Diethyl 7-bromo-4-hydroxyquinoline-2,3-dicarboxylate | 0.54 g, 24% | BrC1=CC=C2C(=C(C(=NC2=C1)C(=O)OCC)C(=O)OCC)O | C15H14BrNO5
